### PR TITLE
[Merged by Bors] - feat(Algebra/Order): `LinearEquiv` version of `toLex`/`ofLex`

### PR DESCRIPTION
**Pull request by wwylele**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by pechersky** [comment]
I think the existing lemmas about coercion from MulEquiv to Equiv should also be moved to the new file.

**Comment by wwylele** [comment]
I moved ` toEquiv_toLexMulEquiv` and `toEquiv_symm_toLexMulEquiv` mostly as-is, though I don't quite understand their purpose. They seems to be just repeat of `coe_toLexMulEquiv` and `coe_symm_toLexMulEquiv` with an additional intermediate coe...

File: Mathlib/Algebra/Order/Group/Equiv.lean [hunk 1]
```diff
@@ -35,3 +35,13 @@ theorem coe_ofLexMulEquiv [Mul α] : ⇑(ofLexMulEquiv α) = ofLex := rfl
...
+
+@[simp]
+lemma toEquiv_toLexMulEquiv (G H : Type*) [MulOneClass G] [MulOneClass H] :
+    ⇑(toLexMulEquiv (G × H) : G × H ≃ G ×ₗ H) = toLex :=
+  rfl
+
+@[simp]
+lemma toEquiv_symm_toLexMulEquiv (G H : Type*) [MulOneClass G] [MulOneClass H] :
+    ⇑((toLexMulEquiv (G × H)).symm : G ×ₗ H ≃ G × H) = ofLex :=
+  rfl
```
Comment (pechersky) [inline Mathlib/Algebra/Order/Group/Equiv.lean]: You're right, should be
```
@[to_additive (attr := simp)]
lemma toEquiv_toLexMulEquiv [Mul α] :
    (toLexMulEquiv α : α ≃ (Lex α)) = toLex :=
  rfl

@[to_additive (attr := simp)]
lemma toEquiv_symm_toLexMulEquiv [Mul α] :
    ((toLexMulEquiv α).symm : (Lex α) ≃ α) = ofLex :=
  rfl
```

**Comment by pechersky** [comment]
Specifically for the lemmas that coerce to Equiv, you shouldn't have the outer coercion lemma. Because if you do, that statement becomes about coercions to functions.

**Comment by wwylele** [comment]
Oh yeah that's also what confused me, because the original code had `⇑`. I'll remove it

**Comment by pechersky** [comment]
Yeah the original code, written by me, was wrong!

File: Mathlib/Algebra/Order/Group/Equiv.lean [hunk 2]
```diff
@@ -0,0 +1,47 @@
...
+/-!
+# Add/Mul equivalence for order type synonyms
+-/
+
+variable (α : Type*)
+
+/-- `toLex` as a `MulEquiv`. -/
+@[to_additive "`toLex` as a `AddEquiv`."]
+def toLexMulEquiv [Mul α] : α ≃* Lex α where
+  __ := toLex
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Equiv.lean]:
```suggestion
  toEquiv := toLex
```

File: Mathlib/Algebra/Order/Group/Equiv.lean [hunk 3]
```diff
@@ -0,0 +1,47 @@
...
+import Mathlib.Algebra.Order.Group.Synonym
+
+/-!
+# Add/Mul equivalence for order type synonyms
+-/
+
+variable (α : Type*)
+
+/-- `toLex` as a `MulEquiv`. -/
+@[to_additive "`toLex` as a `AddEquiv`."]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Equiv.lean:16]:
```suggestion
@[to_additive (attr := simps toEquiv) "`toLex` as a `AddEquiv`."]
```

File: Mathlib/Algebra/Order/Group/Equiv.lean [hunk 4]
```diff
@@ -0,0 +1,47 @@
...
+theorem coe_symm_ofLexMulEquiv [Mul α] : ⇑(ofLexMulEquiv α).symm = toLex := rfl
+
+@[to_additive (attr := simp)]
+lemma toEquiv_toLexMulEquiv [Mul α] :
+    (toLexMulEquiv α : α ≃ Lex α) = toLex :=
+  rfl
+
+@[to_additive (attr := simp)]
+lemma toEquiv_symm_toLexMulEquiv [Mul α] :
+    ((toLexMulEquiv α).symm : Lex α ≃ α) = ofLex :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Equiv.lean]:
```suggestion
lemma symm_toLexMulEquiv [Mul α] :
    (toLexMulEquiv α).symm = ofLexMulEquiv α :=
```

File: Mathlib/Algebra/Order/Group/Equiv.lean (hunk 3 above)
Comment (wwylele) [reply Mathlib/Algebra/Order/Group/Equiv.lean:16]: This produces `toLexMulEquiv_toEquiv`, which is basically renaming `toEquiv_toLexMulEquiv`. (`toEquiv_toLexMulEquiv` was introduced in #22420). This is where I don't know what our naming convention is and I found both examples in the library. `toEquiv` can be seen as a function application so the function name should appear first; but there are also example where a dot member is written the other way.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Group/Equiv.lean:16]: For things which ""are clearly projections"", the name tends to come last. At any rate, `simps` producing that name is good authority to follow

Comment (wwylele) [reply Mathlib/Algebra/Order/Group/Equiv.lean:16]: Got it. I have applied the change and removed `toEquiv_toLexMulEquiv`

Comment (wwylele) [reply Mathlib/Algebra/Order/Group/Equiv.lean:16]: Welp, the simp normal form checker rejected this
```
-- Mathlib.Algebra.Order.Group.Equiv
Error: /home/lean/actions-runner/_work/mathlib4/mathlib4/pr-branch/Mathlib/Algebra/Order/Group/Equiv.lean:16:24: error: toLexMulEquiv_toEquiv Left-hand side simplifies from
  (toLexMulEquiv α).toEquiv
to
  ↑(toLexMulEquiv α)
using
  dsimp only [*, @MulEquiv.toEquiv_eq_coe]
Try to change the left-hand side to the simplified term!
```

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Group/Equiv.lean:16]: Ugh, I'm so sorry my suggestion depends on #21031

File: Mathlib/Algebra/Order/Module/Equiv.lean [hunk 5]
```diff
@@ -0,0 +1,33 @@
...
+theorem coe_symm_toLexLinearEquiv : ⇑(toLexLinearEquiv α β).symm = ofLex := rfl
+
+/-- `ofLex` as a linear equivalence -/
+def ofLexLinearEquiv : Lex β ≃ₗ[α] β := (ofLexAddEquiv β).toLinearEquiv ofLex_smul
+
+@[simp]
+theorem coe_ofLexLinearEquiv : ⇑(ofLexLinearEquiv α β) = ofLex := rfl
+
+@[simp]
+theorem coe_symm_ofLexLinearEquiv : ⇑(ofLexLinearEquiv α β).symm = toLex := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Module/Equiv.lean]:
```suggestion
/-- `ofLex` as a linear equivalence -/
def ofLexLinearEquiv : Lex β ≃ₗ[α] β := (ofLexAddEquiv β).toLinearEquiv ofLex_smul

@[simp]
theorem coe_ofLexLinearEquiv : ⇑(ofLexLinearEquiv α β) = ofLex := rfl

@[simp] lemma symm_toLexLinearEquiv : toLexLinearEquiv α β).symm = ofLexLinearEquiv α β := rfl
@[simp] lemma symm_ofLexLinearEquiv : (ofLexLinearEquiv α β).symm = toLexLinearEquiv α β := rfl
```

File: Mathlib/Algebra/Order/Group/Equiv.lean [hunk 6]
```diff
@@ -0,0 +1,47 @@
...
+@[to_additive "`ofLex` as a `AddEquiv`."]
+def ofLexMulEquiv [Mul α] : Lex α ≃* α where
+  toEquiv := ofLex
+  map_mul' _ _ := by simp
+
+@[to_additive (attr := simp)]
+theorem coe_ofLexMulEquiv [Mul α] : ⇑(ofLexMulEquiv α) = ofLex := rfl
+
+@[to_additive (attr := simp)]
+theorem coe_symm_ofLexMulEquiv [Mul α] : ⇑(ofLexMulEquiv α).symm = toLex := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Equiv.lean]: Same here

File: Mathlib/Algebra/Order/Group/Equiv.lean [hunk 7]
```diff
@@ -0,0 +1,43 @@
...
+Authors: Weiyi Wang
+-/
+import Mathlib.Algebra.Group.Equiv.Defs
+import Mathlib.Algebra.Order.Group.Synonym
+
+/-!
+# Add/Mul equivalence for order type synonyms
+-/
+
+variable (α : Type*)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/Equiv.lean]:
```suggestion
variable (α : Type*) [Mul α]
```
will save you a lot of characters

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by bryangingechen** [comment]
Thanks!
bors r+
